US08034937B2
b) 1′-Benzyl-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidin]-7-one
A mixture of 3.4 g (9.7 mmol) 1′-benzyl-2-bromo-2′,3′,5′,6′-tetrahydro-1′H-[3,4′]bipyridinyl-4′-ol, 3.3 ml (1.9 mmol) N,N-diisopropylethylamine, 0.22 g (1.0 mmol) Pd(II) acetate and 0.25 g (1.0 mmol) triphenylphosphine in 100 ml N,N-dimethylformamide was purged with carbon monoxide and stirred under an atmosphere of carbon monoxide at 80° C. for 72 h. The reaction mixture was diluted with tert-butyl methyl ether and washed with water (pH adjusted to 8 with saturated aqueous sodium bicarbonate solution). The aqueous layer was extracted with two portions of tert-butyl methyl ether. The combined organic layers were washed with two portions of water and brine, dried over sodium sulfate and concentrated to dryness. Flash-chromatography gave the title compound (1.2 g, 43%) as a yellow solid.

reactant | 1′-benzyl-2-bromo-2′,3′,5′,6′-tetrahydro-1′H-[3,4′]bipyridinyl-4′-ol | 9.7 mmol, 3.4 g | C(C1=CC=CC=C1)N1CCC(CC1)(C=1C(=NC=CC1)Br)O | C17H19BrN2O
reactant | N,N-diisopropylethylamine | 1.9 mmol, 3.3 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | triphenylphosphine | 1.0 mmol, 0.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1′-Benzyl-7H-spiro[furo[3,4-b]pyridine-5,4′-piperidin]-7-one | 1.2 g, 43% | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=NC=CC=C12)=O | C18H18N2O2
